US08859768B2
To a stirred solution of methyl 5-(2-chlorophenyl)-2-iodo-1,3-oxazole-4-carboxylate (20.0 g, 55.2 mmol) in EtOH (300 mL) was added a solution of NaOH (3.3 g, 82.8 mmol) in water (100 mL). The reaction mixture was allowed to stir at rt overnight and was then acidified by the addition of 1M HCl. The solution was concentrated to a small volume and then extracted with EtOAc. The organic solutions were combined, dried over Na2SO4, filtered and concentrated to give 5-(2-chlorophenyl)-2-iodo-1,3-oxazole-4-carboxylic acid (12.0 g, 60%).

reactant | methyl 5-(2-chlorophenyl)-2-iodo-1,3-oxazole-4-carboxylate | 55.2 mmol, 20.0 g | ClC1=C(C=CC=C1)C1=C(N=C(O1)I)C(=O)OC | C11H7ClINO3
reactant | NaOH | 82.8 mmol, 3.3 g | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | EtOH | 300 mL | CCO | C2H6O
solvent | water | 100 mL | O | H2O
product | 5-(2-chlorophenyl)-2-iodo-1,3-oxazole-4-carboxylic acid | 12.0 g, 60% | ClC1=C(C=CC=C1)C1=C(N=C(O1)I)C(=O)O | C10H5ClINO3
